US09359359B2
To a solution of ethyl 3-(5-methylthiazol-2-yl)propanoate (0.2 g, 1 mmol) in THF/water (3 mL/3 mL) was added lithium hydroxide (61 mg, 1.5 mmol) portionwise at room temperature. The resulting mixture was stirred for 3 h. The solvent was evaporated and the residue was acidified with conc. HCl to adjust the pH to 1-2. The mixture was partitioned between ethyl acetate and water. The combined organic layer was dried over sodium sulfate and concentrated to afford 3-(5-methylthiazol-2-yl)propanoic acid (0.17 g, 87.7% yield) as a colorless oil. LCMS retention time 0.436 min; LCMS MH+ 172.

reactant | ethyl 3-(5-methylthiazol-2-yl)propanoate | 1 mmol, 0.2 g | CC1=CN=C(S1)CCC(=O)OCC | C9H13NO2S
reactant | lithium hydroxide | 1.5 mmol, 61 mg | [OH-].[Li+]
solvent | THF water | 3 mL | C1CCOC1.O
product | 3-(5-methylthiazol-2-yl)propanoic acid | 0.17 g, 87.7% yield | CC1=CN=C(S1)CCC(=O)O | C7H9NO2S
